US07253196B2
6-(Bicyclo[2.2.1]hept-2-ylamino)-5-thia-7-azaspiro[3.4]oct-6-en-8-one
Synthesis was performed from N-bicyclo[2.2.1]hept-2-ylthiourea and ethyl 1-bromocyclobutanecarboxylate according to Method D.

reactant | N-bicyclo[2.2.1]hept-2-ylthiourea | C12C(CC(CC1)C2)NC(=S)N | C8H14N2S
reactant | ethyl 1-bromocyclobutanecarboxylate | BrC1(CCC1)C(=O)OCC | C7H11BrO2
product | 6-(Bicyclo[2.2.1]hept-2-ylamino)-5-thia-7-azaspiro[3.4]oct-6-en-8-one | C12C(CC(CC1)C2)NC=2SC1(CCC1)C(N2)=O | C13H18N2OS
